.SUBCKT LV1UNMOS 10 20 30
*     TERMINALS:  D  G  S
RD 10 1 1.4
RG 20 2 1.4
RS 30 3 1.4
M1 1 2 3 3 NMOS L=1E-6 W=1E-6
CGS 2 3 2.711E-010
EGD 12 0 2 1 1
VFB 14 0 0
FFB 2 1 VFB 1
CGD 13 14 5.2E-010
R1 13 0 1
D1 12 13 DLIM
DDG 15 14 DCGD
R2 12 15 1
D2 15 0 DLIM
DSD 3 10  DSUB
.MODEL NMOS NMOS(LEVEL=3 VMAX=5.378E+005 ETA=0.001 VTO=0.8 TOX=40E-9 NSUB=1E+20 KP=9.816 U0=400 KAPPA=10)
.MODEL DCGD D(CJO=2.317E-010 VJ=0.2783 M=0.4405)
.MODEL DSUB D(IS=1E-015 N=0.8731 RS=0.04482 BV=35 CJO=1.086E-011 VJ=0.4101 M=0.9)
.MODEL DLIM D(IS=0.0001)
.ENDS LV1UPMOS